US07071365B2
A mixture of 5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binaphthol (44.0 g), dichlorobenzene (10 ml) and phosphotungstic acid (2.3 g) was heated to 130° C. To the mixture was added excess propylene via a dry-ice condenser. The reaction was monitored by GC analysis. The reaction mixture contained 6% of monoisopropylated product and 83% of diisopropylated product. The mixture was purified by flash column to give 20.0 g of 3,3′-diisopropyl-5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binaphthol.

reactant | 5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binaphthol | 44.0 g | C=1(C(=CC=C2CCCCC12)C1=CC=2CCCCC2C=C1)O | C20H22O
reactant | propylene | C=CC | C3H6
reactant | dichlorobenzene | 10 ml | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
catalyst | phosphotungstic acid | 2.3 g | O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.P.[W].[W].[W].[W].[W].[W].[W].[W].[W].[W].[W].[W]
product | 3,3′-diisopropyl-5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binaphthol | 20.0 g | C(C)(C)C1=C(C(=C2CCCCC2=C1)O)C1=CC=2CCCCC2C=C1C(C)C | C26H34O
